US04065500
) To a stirred solution of 35.0 parts of trimethylamine in 105 parts of water there was added over a one and one-half hour period 100.8 parts of 4-methoxy-3-nitrobenzyl chloride. The reaction mixture was heated at approximately 50° C. for three and a half hours and was then diluted with an additional 50 parts of water. The solution was allowed to cool to about 25° C. and the pH was adjusted to 4.9 by the addition of dilute acetic acid. The solution was clarified by filtration and used directly for reduction of the thus obtained N-(3-nitro-4-methoxybenzyl)-N,N,N-trimethylammonium chloride dissolved therein. b. The aqueous solution of N-(3-nitro-4-methoxybenzyl)-N,N,N-trimethylammonium chloride obtained in a.) was heated to approximately 85° C. Then 110 parts of iron powder was added at a rate sufficient to maintain a temperature in the range 85°-90° C. without further external heating. At the end of the addition, heating was resumed at 85°-90° C. for one hour and then the reaction was set aside at room temperature overnight. The reaction mixture was heated to 80° C. and the pH adjusted to approximately 8.0 by the addition of a dilute aqueous solution of sodium carbonate. The mixture was allowed to cool to approximately 45° C. and was then filtered with the aid of 3 parts of decolorizing charcoal. A sample of the clear solution was analyzed for free amine content by diazotization using a standardized sodium nitrite solution. The analytical results showed that N-(3-amino-4-methoxybenzyl)-N,N,N-trimethylammonium chloride was obtained in nearly quantitative yield. The product was used directly in the form of its aqueous solution without isolation.

reactant | trimethylamine | CN(C)C | C3H9N
reactant | 4-methoxy-3-nitrobenzyl chloride | COC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C8H8ClNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(3-nitro-4-methoxybenzyl)-N,N,N-trimethylammonium chloride | quantitative yield | [Cl-].[N+](=O)([O-])C=1C=C(C[N+](C)(C)C)C=CC1OC | InChI=1S/C11H17N2O3.ClH/c1-13(2,3)8-9-5-6-11(16-4)10(7-9)12(14)15;/h5-7H,8H2,1-4H3;1H/q+1;/p-1
